US09029560B2
Preparation of (Z)-1-(3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)-3-(2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propyl)urea (F10)
3-(4-(1-(4-(Trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)butanoyl azide (C42) (0.22 g, 0.52 mmol) in acetonitrile (2.6 mL) was heated at 80° C. for 2 hours. The reaction was cooled and 1-(2-isopropyl-5-methylphenyl)thiourea (0.12 g, 0.57 mmol) and cesium carbonate (0.20 g, 0.61 mmol) were added. The reaction was stirred at room temperature for 18 hours. Sodium acetate (0.093 g, 1.1 mmol), methyl 2-bromoacetate (0.07 mL, 0.78 mmol) and ethanol (2.6 mL) were added, and the reaction mixture was heated at 65° C. for 3 hours. The reaction was cooled, diluted with ethyl acetate, and washed with water. The aqueous layer was extracted once more with ethyl acetate. The combined organic layers were dried over anhydrous sodium sulfate, filtered, and concentrated. The crude material was loaded onto a Celite® cartridge and purified by flash column chromatography using 0-100% ethyl acetate/B, where B=1:1 dichloromethane/hexanes, as eluent to afford the title compound as an orange solid (0.12 g, 35%).

reactant | 3-(4-(1-(4-(Trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)butanoyl azide | 0.52 mmol, 0.22 g | FC(OC1=CC=C(C=C1)N1N=C(N=C1)C1=CC=C(C=C1)C(CC(=O)N=[N+]=[N-])C)(F)F | C19H15F3N6O2
reactant | 1-(2-isopropyl-5-methylphenyl)thiourea | 0.57 mmol, 0.12 g | C(C)(C)C1=C(C=C(C=C1)C)NC(=S)N | C11H16N2S
reactant | cesium carbonate | 0.61 mmol, 0.20 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Sodium acetate | 1.1 mmol, 0.093 g | C(C)(=O)[O-].[Na+]
reactant | methyl 2-bromoacetate | 0.78 mmol, 0.07 mL | BrCC(=O)OC | C3H5BrO2
reactant | acetonitrile | 2.6 mL | C(C)#N | C2H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 2.6 mL | C(C)O | C2H6O
product | (Z)-1-(3-(2-isopropyl-5-methylphenyl)-4-oxothiazolidin-2-ylidene)-3-(2-(4-(1-(4-(trifluoromethoxy)phenyl)-1H-1,2,4-triazol-3-yl)phenyl)propyl)urea | 0.12 g, 35% | C(C)(C)C1=C(C=C(C=C1)C)N1/C(/SCC1=O)=N/C(=O)NCC(C)C1=CC=C(C=C1)C1=NN(C=N1)C1=CC=C(C=C1)OC(F)(F)F | C32H31F3N6O3S
